* PEX produced on Sun Aug 30 02:20:22 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from sparx_powdet_sbd_pex.ext - technology: ihp-sg13g2

.subckt sparx_powdet_sbd_pex vout vref vdd rfin vss
X0 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X1 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X2 vout dw_8122_4047# vss.t1 vss.t8 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X3 vdd vss.t1 cap_cmim l=10u w=10u
X4 vdd vss.t1 cap_cmim l=10u w=10u
X5 vss.t1 dw_8122_4047# vout vss.t15 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X6 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X7 vdd vdd vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=43.4451p ps=0.26832m w=5u l=0.13u
X8 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X9 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X10 vss.t1 dw_8122_4047# vout vss.t13 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X11 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X12 vdd vss.t1 cap_cmim l=10u w=10u
X13 vdd vss.t1 cap_cmim l=10u w=10u
X14 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X15 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X16 vout dw_8122_4047# vss.t1 vss.t22 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X17 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X18 vdd dw_9390_4047# vref vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X19 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X20 vss.t1 dw_8122_4047# vout vss.t3 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X21 vout dw_8122_4047# vss.t1 vss.t12 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X22 vdd vss.t1 cap_cmim l=9u w=6.8u
X23 vdd vss.t1 cap_cmim l=10u w=10u
X24 vdd vss.t1 cap_cmim l=10u w=10u
X25 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X26 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X27 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X28 vss.t1 dw_8122_4047# vout vss.t19 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X29 vout dw_8122_4047# vss.t1 vss.t10 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X30 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X31 vdd vss.t1 cap_cmim l=10u w=10u
X32 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X33 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X34 vss.t1 dw_8122_4047# vout vss.t17 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X35 vdd vss.t1 cap_cmim l=10u w=10u
X36 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X37 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X38 rfin a_8232_4131# cap_cmim l=10u w=10u
X39 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X40 vdd vss.t1 cap_cmim l=10u w=10u
X41 a_8474_2725# vdd vss.t28 rhigh l=2u w=0.5u
X42 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X43 a_8232_4131# dw_8122_4047# vss schottky_nbl1 l=1.2u w=2.655u
X44 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X45 vss.t1 dw_8122_4047# vout vss.t7 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X46 vdd vss.t1 cap_cmim l=10u w=10u
X47 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X48 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X49 vout dw_8122_4047# vss.t1 vss.t14 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X50 vss.t1 dw_8122_4047# vout vss.t5 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X51 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X52 a_9398_3295# a_8474_2725# vss.t59 rsil l=2.5u w=0.5u
X53 vref dw_9390_4047# vss.t1 vss.t2 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X54 vdd vss.t1 cap_cmim l=10u w=10u
X55 vss.t1 dw_8122_4047# vout vss.t21 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X56 dw_9390_4047# vref vss.t23 rppd l=1.5u w=0.5u
X57 vdd vss.t1 cap_cmim l=10u w=10u
X58 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X59 vdd vss.t1 cap_cmim l=10u w=10u
X60 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X61 vss.t1 vss.t1 vss.t1 vss.t24 sg13_lv_nmos ad=0.85p pd=5.68u as=0 ps=0 w=2.5u l=0.13u
X62 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X63 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X64 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X65 vss.t1 dw_8122_4047# vout vss.t11 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X66 vdd vss.t1 cap_cmim l=10u w=10u
X67 vout dw_8122_4047# vss.t23 rppd l=1.5u w=0.5u
X68 vdd vss.t1 cap_cmim l=10u w=10u
X69 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X70 vdd vss.t1 cap_cmim l=10u w=10u
X71 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X72 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X73 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X74 vss.t1 dw_8122_4047# vout vss.t9 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X75 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X76 vdd vss.t1 cap_cmim l=10u w=10u
X77 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X78 vout dw_8122_4047# vss.t1 vss.t16 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X79 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X80 vdd vss.t1 cap_cmim l=10u w=10u
X81 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X82 vdd vss.t1 cap_cmim l=10u w=10u
X83 vss.t1 vss.t1 vss.t1 vss.t26 sg13_lv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.13u
X84 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X85 vdd vss.t1 cap_cmim l=9u w=6.8u
X86 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X87 vdd vss.t1 cap_cmim l=10u w=10u
X88 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X89 vout dw_8122_4047# vss.t1 vss.t6 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X90 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X91 vref dw_9390_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X92 vout dw_8122_4047# vss.t1 vss.t4 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X93 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X94 vdd vss.t1 cap_cmim l=10u w=10u
X95 vdd vss.t1 cap_cmim l=10u w=10u
X96 vdd vss.t1 cap_cmim l=10u w=10u
X97 vdd vss.t1 cap_cmim l=10u w=10u
X98 vss.t1 dw_9390_4047# vref vss.t0 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X99 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X100 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X101 vout dw_8122_4047# vss.t1 vss.t20 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X102 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X103 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X104 vdd vss.t1 cap_cmim l=10u w=10u
X105 vdd vdd vdd vdd sg13_lv_pmos ad=1.7p pd=10.68u as=0 ps=0 w=5u l=0.13u
X106 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X107 vdd vss.t1 cap_cmim l=10u w=10u
X108 vdd vss.t1 cap_cmim l=10u w=10u
X109 vout dw_8122_4047# vss.t1 vss.t18 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X110 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X111 a_8232_4131# a_8474_2725# vss.t90 rsil l=2.5u w=0.5u
X112 a_9398_3295# dw_9390_4047# vss schottky_nbl1 l=1.2u w=2.655u
X113 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X114 vdd vss.t1 cap_cmim l=10u w=10u
X115 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
R0 vss.t1 vss.n33 5244.95
R1 vss.n32 vss.t59 5004.79
R2 vss.n33 vss.n32 3732.56
R3 vss.n30 vss.n29 2460.47
R4 vss.n27 vss.t28 2101.74
R5 vss.n33 vss.t28 1178.78
R6 vss.n1 vss.n32 15039.9
R7 vss.n27 vss.t1 817.217
R8 vss.n28 vss.n27 735.946
R9 vss.n29 vss.t90 553.63
R10 vss.n30 vss.n1 140.935
R11 vss.t59 vss.n5 304.267
R12 vss.t90 vss.n2 305.664
R13 vss.n5 vss.n2 117.159
R14 vss.t0 vss.t2 30.5029
R15 vss.t1 vss.n3 1.12214
R16 vss.t22 vss.n9 17.644
R17 vss.n17 vss.t20 17.644
R18 vss.n12 vss.t18 17.644
R19 vss.n19 vss.t16 17.644
R20 vss.t14 vss.n13 17.644
R21 vss.n14 vss.t9 17.644
R22 vss.n24 vss.t7 17.644
R23 vss.n16 vss.t5 17.644
R24 vss.n25 vss.t3 17.644
R25 vss.n0 vss.n31 8.50058
R26 vss.t23 vss.t11 14.6536
R27 vss.t21 vss.n9 12.8594
R28 vss.n17 vss.t19 12.8594
R29 vss.t17 vss.n12 12.8594
R30 vss.t15 vss.n19 12.8594
R31 vss.t13 vss.n13 12.8594
R32 vss.n23 vss.t12 12.8594
R33 vss.n14 vss.t10 12.8594
R34 vss.n24 vss.t8 12.8594
R35 vss.n16 vss.t6 12.8594
R36 vss.n25 vss.t4 12.8594
R37 vss.n18 vss.t17 12.1076
R38 vss.n21 vss.t13 12.1076
R39 vss.t8 vss.n7 12.1076
R40 vss.t6 vss.n15 12.1076
R41 vss.t4 vss.n6 12.1076
R42 vss.t24 vss.n3 7.01232
R43 vss.n20 vss.t15 12.1071
R44 vss.t19 vss.n11 12.1071
R45 vss.n10 vss.t21 12.1071
R46 vss.n4 vss.t26 7.01074
R47 vss.t12 vss.n22 12.1071
R48 vss.t10 vss.n8 12.1071
R49 vss.n31 vss.n30 10.168
R50 vss.n0 vss.n28 8.501
R51 vss.t1 vss.n25 8.5005
R52 vss.t1 vss.n24 8.5005
R53 vss.t1 vss.n23 8.5005
R54 vss.t1 vss.n19 8.5005
R55 vss.t1 vss.n17 8.5005
R56 vss.t1 vss.n9 8.5005
R57 vss.t1 vss.n12 8.5005
R58 vss.t1 vss.n13 8.5005
R59 vss.t1 vss.n14 8.5005
R60 vss.t1 vss.n16 8.5005
R61 vss.n1 vss.n5 5.67123
R62 vss.n20 vss.t14 7.32294
R63 vss.n22 vss.t0 7.32294
R64 vss.t11 vss.n8 7.32294
R65 vss.t20 vss.n10 7.32294
R66 vss.t18 vss.n11 7.32294
R67 vss.t3 vss.n3 8.02543
R68 vss.t5 vss.n6 7.32242
R69 vss.t7 vss.n15 7.32242
R70 vss.t9 vss.n7 7.32242
R71 vss.t16 vss.n18 7.32242
R72 vss.t2 vss.n21 7.32242
R73 vss.n2 vss.n0 4.15413
R74 vss.n28 vss.n26 4.75145
R75 vss.n31 vss.n26 4.75092
R76 vss.n23 vss.t23 2.99093
R77 vss.t1 vss.n6 1.93648
R78 vss.t1 vss.n7 1.93648
R79 vss.t1 vss.n8 1.93648
R80 vss.t1 vss.n22 1.93648
R81 vss.t1 vss.n21 1.93648
R82 vss.t1 vss.n20 1.93648
R83 vss.t1 vss.n18 1.93648
R84 vss.n4 vss.t22 8.02612
R85 vss.t1 vss.n10 1.93648
R86 vss.t1 vss.n11 1.93648
R87 vss.t1 vss.n15 1.93648
R88 vss.n1 vss.n26 1.87635
R89 vss.n29 vss.n0 1.21479
R90 vss.n4 vss.t1 1.12193
R91 vss.n1 vss.n0 1.08478
R92 vss vss.t1 0.0005
C0 vref vdd 1.27003f
C1 vout vdd 18.8274f
C2 a_9398_3295# dw_9390_4047# 0.39405f
C3 a_8474_2725# dw_9390_4047# 0.05717f
C4 a_8232_4131# rfin 1.20466f
C5 a_8474_2725# a_12042_5786# 0.01902f
C6 a_8474_2725# vdd 2.76819f
C7 a_9398_3295# rfin 0.05178f
C8 a_8474_2725# rfin 0.0265f
C9 a_8232_4131# a_8474_2795# 0.05211f
C10 a_8474_2725# a_8474_2795# 0.02075f
C11 a_8232_4131# a_9398_2795# 0.01213f
C12 a_9776_11692# vdd 0.0126f
C13 vref dw_8122_4047# 0.6228f
C14 vout dw_8122_4047# 3.93716f
C15 vdd dw_9390_4047# 0.68855f
C16 vref a_9396_11692# 0.04195f
C17 a_8232_4131# dw_8122_4047# 0.89997f
C18 rfin dw_9390_4047# 0.0415f
C19 vdd a_12042_5786# 0.0653f
C20 a_9398_3295# a_9398_2795# 0.02622f
C21 a_8474_2725# a_9398_2795# 0.02416f
C22 vref vout 2.0311f
C23 a_8474_2725# dw_8122_4047# 0.11747f
C24 vref a_8474_2725# 0.19179f
C25 a_8232_4131# a_9398_3295# 0.15371f
C26 a_8474_2725# vout 1.11736f
C27 a_8232_4131# a_8474_2725# 0.06078f
C28 a_9776_11692# dw_8122_4047# 0.03656f
C29 dw_9390_4047# dw_8122_4047# 1.66491f
C30 a_9398_3295# a_8474_2725# 0.02051f
C31 a_9396_11692# dw_9390_4047# 0.03627f
C32 vdd dw_8122_4047# 5.72604f
C33 a_9776_11692# vout 0.03993f
C34 vref dw_9390_4047# 0.59869f
C35 rfin dw_8122_4047# 0.07528f
C36 vout dw_9390_4047# 0.21066f
C37 a_8232_4131# dw_9390_4047# 0.10207f
C38 vref vss 6.37055f
C39 vout vss 33.4375f
C40 a_8232_4131# vss 0.1611f
C41 dw_9390_4047# vss 0.90928f
C42 vss.t1 vss 0.20708f
.ends

